US08193199B2
Prepared according to Procedure H using (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine (0.100 g, 0.33 mmol), 6-chloropurine (0.051 g, 0.33 mmol, 1 eq) and DIEA (0.07 mL, 0.4 mmol, 1.2 eq) in ethanol (3 mL). N-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=68 nM] was obtained after purification as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.37 (1H, s), 8.11 (1H, s), 8.08 (1H, s), 8.00 (1H, dd, J=8.2, 1.2 Hz), 7.93 (1H, dd, J=7.4, 1.2 Hz), 7.42-7.67 (5H, m) Mass Spectrum (ESI) m/e=421.0 and 423.1 (M+1)

reactant | (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine | 0.33 mmol, 0.100 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN | C16H12Cl2N2
reactant | 6-chloropurine | 0.33 mmol, 0.051 g, 1 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.4 mmol, 0.07 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC1=C2N=CNC2=NC=N1 | C21H14Cl2N6
